US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]urea
To a solution of 9.25 grams (0.0442 moles) of 1-t-butylazo-1-isocyanatocyclohexane in 50 ml of methanol in a 250 ml 3-neck round bottom flask equipped with a magnetic stirrer, thermometer, gas addition tube and dry ice condenser was added gaseous ammonia until a gentle ammonia reflux was maintained in the condenser. The reaction was stirred for 90 minutes at room temperature, poured into 300 ml water and the solid that formed was filtered off. The filter cake was air dried leaving 9.0 grams (90% crude yield) of a white powder. The product melted at 115°-117° C. and its infrared spectrum contained a strong carbonyl band at 1670 cm-1 and sharp NH bands at 3250 cm-1 3330 cm-1 and 3440 cm-1. The isocyanate band at 2225 cm-1 was absent.

reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.0442 moles, 9.25 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | ammonia | N | H3N
reactant | water | 300 ml | O | H2O
reactant | isocyanate | [N-]=C=O
solvent | methanol | 50 ml | CO | CH4O
product | N-[1-(t-Butylazo)cyclohexyl]urea | C(C)(C)(C)N=NC1(CCCCC1)NC(=O)N | C11H22N4O
